US08957074B2
To a 500 ml Parr shaker bottle was added 10.53 grams (45.7 mmoles) of racemic 9-Benzyl-3,9-diaza-bicyclo[4.2.1]nonan-4-one 100 mls of methanol and 20 mls of tetrahydrofuran. In a single portion, 11 g (50.4 mmoles) of di-tertbutyl di-carbonate was added. The mixture was then put under nitrogen and about 0.5 grams of 10% palladium on carbon was added. The resultant mixture was hydrogenated with shaking at about 50 psi hydrogen for 36 hours. The mixture was removed from the Parr shaker and about 100 mls of dichloromethane and 25 grams of celite was added and stirred. The mixture was filtered through a pad of celite. The pad was washed with excess dichloromethane. The organics were combined and concentrated to a thick residue which solidified under vacuum. The solid was re-crystallized from dichloromethane/heptanes, the white solid was dried under vacuum which gave 4-Oxo-3,9-diaza-bicyclo[4.2.1]nonane-9-carboxylic acid tert-butyl ester 10.63 grams in 98% yield.

reactant | racemic 9-Benzyl-3,9-diaza-bicyclo[4.2.1]nonan-4-one | 45.7 mmoles, 100 mls, 10.53 grams | C(C1=CC=CC=C1)N1C2CNC(CC1CC2)=O | C14H18N2O
reactant | methanol | CO | CH4O
reactant | di-tertbutyl di-carbonate | 50.4 mmoles, 11 g | C(OC(C)(C)C)([O-])=O.C(OC(C)(C)C)([O-])=O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | about 0.5 grams | [Pd] | Pd
solvent | tetrahydrofuran | 20 mls | O1CCCC1 | C4H8O
product | 4-Oxo-3,9-diaza-bicyclo[4.2.1]nonane-9-carboxylic acid tert-butyl ester | 10.63 grams, 98% yield | C(C)(C)(C)OC(=O)N1C2CNC(CC1CC2)=O | C12H20N2O3
